US09034900B2
Step 1: 7-fluoro-2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one
A mixture of compound 4-bromo-7-fluoro-2-methylisoquinolin-1-one (1.2 g, 4.69 mmol), bis(pinacolato)diboron (2.38 g, 9.37 mmol), AcOK (1.38 g, 14.07 mmol), Pd2(dba)3 (429 mg, 0.47 mmol) and X-phos (224 mg, 0.47 mmol) in dioxane (20 mL) was stirred at 70° C. for 18 hrs under N2. The mixture was concentrated and the residue was purified by column chromatography to give the title compound (0.8 g, yield: 56.3%). 1H NMR (CDCl3, 400 MHz) δ 8.42 (dd, J1=9.2 Hz, J2=4.2 Hz, 1H), 8.06 (dd, J1=9.2 Hz, J2=2.8 Hz, 1H), 7.65 (s, 1H), 7.42-7.35 (m, 1H), 3.64 (s, 3H), 1.38 (s, 12H). LCMS (M+H)+=304.1 (M+H)+

reactant | 4-bromo-7-fluoro-2-methylisoquinolin-1-one | 4.69 mmol, 1.2 g | BrC1=CN(C(C2=CC(=CC=C12)F)=O)C | C10H7BrFNO
reactant | bis(pinacolato)diboron | 9.37 mmol, 2.38 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | AcOK | 14.07 mmol, 1.38 g | C(=O)(C)O[K]
reactant | X-phos | 0.47 mmol, 224 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.47 mmol, 429 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-fluoro-2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 0.8 g, yield: 56.3% | FC1=CC=C2C(=CN(C(C2=C1)=O)C)B1OC(C(O1)(C)C)(C)C | C16H19BFNO3
